US07465733B2
Step A: (1S,2R)-1-{4-[(4-Methylphenyl)sulphonyl]piperazin-1-yl}indan-2-ol
To 8 g of (1S,2R)-1-aminoindan-2-ol (53.6 mmol) dissolved in 80 ml of dimethylformamide there are added 15 ml of triethylamine (107.2 mmol) and 15.8 g of N,N-bis(2-chloroethyl)-p-toluenesulphonamide (53.6 mmol). The mixture is heated at 80° C. for 24 hours and then the dimethylformamide is evaporated off. The residue is taken up in dichloromethane, washed, dried, filtered and evaporated. The oil obtained is purified by flash chromatography on silica (eluant: dichloromethane/ethyl acetate 95/5) to yield the expected product in the form of a meringue.

reactant | (1S,2R)-1-aminoindan-2-ol | 53.6 mmol, 8 g | N[C@@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
reactant | triethylamine | 107.2 mmol, 15 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(2-chloroethyl)-p-toluenesulphonamide | 53.6 mmol, 15.8 g | ClCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCCl | C11H15Cl2NO2S
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (1S,2R)-1-{4-[(4-Methylphenyl)sulphonyl]piperazin-1-yl}indan-2-ol | CC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)[C@@H]1[C@@H](CC2=CC=CC=C12)O | C20H24N2O3S
